* Z:\mnt\design.r\spice\examples\1369.asc
V1 +V 0 5
R1 N001 +V 200
XU1 N003 N001 +V 0 N002 LT1368
M§Q1 N004 N002 N001 N001 BSS84
I1 N003 0 SINE(.2 .1 1K)
R2 +V N003 .1
R3 N004 0 20K
XU2 N004 OUT +V 0 OUT LT1368
C1 OUT 0 .1µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
* Positive Supply Rail Current Sense
.lib LTC.lib
.backanno
.end
